US07842688B2
c) tert-Butyl 3-(2-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.953 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.510 g of 2-bromobenzylbromide are reacted. The title compound is obtained as a beige oil. Rf=0.31 (1:2 EtOAc-heptane); Rt=6.46.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.953 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 2-bromobenzylbromide | 0.510 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
product | tert-Butyl 3-(2-bromobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | BrC1=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC=C1 | C34H42BrNO6
